data/mechanisms/records/IMS4-EQ4.6d.json
{"mechanism_id": "IMS4-EQ4.6d", "species": [{"species_id": "precursor", "mapped_smiles": "[CH2:1]1[CH+:2][CH2:4][CH2:3]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "vinyl_cation", "mapped_smiles": "[CH2:1]=[CH+:2]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "ethylene", "mapped_smiles": "[CH2:3]=[CH2:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["precursor"]}, {"state_id": "state_products", "species_ids": ["vinyl_cation", "ethylene"]}], "steps": [{"step_id": "step_retro_2plus2", "from_state": "state_precursor", "to_state": "state_products", "step_class": "retro_2plus2_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 2}, {"source": {"type": "bond", "atom_maps": [2, 4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_retro_2plus2", "support_type": "textbook_proposed", "locator": {"page": 55, "equation": "4.6", "section": "4.4 Reaction classifications"}, "confidence": 0.8, "curator_note": "adduct corrected to null (convention G): the species undergoing this reaction is an EVEN-ELECTRON cation (charge +1, radical_electrons 0) - a fragment/secondary-fragmentation precursor - NOT the [M]+. radical molecular ion. Even-electron cyclobutyl cation undergoing retro-[2+2] with charge RETENTION: cleaving the two ring bonds gives the vinyl cation CH2=CH+ (charge kept on the original cationic carbon C2) + neutral ethylene. Book draws 4 fishhook barbs (a two-barbed mark on each cleaved vertical ring bond, left Cc-Ca=<1,3> and right Cb-Cd=<2,4>). For this even-electron charge-retention path the cleavage is heterolytic, so it is encoded as two DOUBLE-barbed moves (<1,3> pair -> C1=C2 pi; <2,4> pair -> C3=C4 pi) rather than four single fishhooks; the book's fishhook glyphs literally depict the competing homolytic (unfavored) reading, see 4.6e."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": "electron ionization", "electron_energy_ev": 70.0, "precursor_mz": 55.0542, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_ion", "species_id": "vinyl_cation", "step_id": "step_retro_2plus2", "observed_mz": 27.0229, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
